US09447046B2
Preparation 129a: N-(2,2,2-trifluoroethyl)aniline
To a solution of 2,2,2-trifluoro-N-phenylacetamide (5.0 g, 26 mmol) in THF (10 mL) was added BH3 in THF (130 mL, 130 mmol, 1.0 M). The resulting mixture was refluxed overnight. The mixture was quenched with water and methanol, concentrated to remove most of THF, and extracted with EtOAc. Organics were washed with brine, dried (Na2SO4), and concentrated to give 4.17 g (92%) of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 3.71-3.75 (2H, m), 6.66 (2H, d, J=8.0 Hz), 6.79 (1H, t, J=7.2 Hz), 7.20 (2H, t, J=8.0 Hz).

reactant | 2,2,2-trifluoro-N-phenylacetamide | 26 mmol, 5.0 g | FC(C(=O)NC1=CC=CC=C1)(F)F | C8H6F3NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 130 mmol, 1.0 M, 130 mL | C1CCOC1 | C4H8O
product | N-(2,2,2-trifluoroethyl)aniline | 4.17 g, 92% | FC(CNC1=CC=CC=C1)(F)F | C8H8F3N
